US05989665
In this example, a poly(trimethylene terephthalate) copolyester containing 9 mole % 2,6-naphthalenedicarboxylic acid was prepared. 79.8 grams (1.05 moles) of 1,3-propanediol, 124.2 grams (0.64 moles) of dimethyl terephthalate, 14.6 grams (0.06 moles) of dimethyl 2,6-naphthalenedicarboxylate, 0.25 ml of butanol solution containing 30 grams titanium tetraisopropoxide in 500 ml of n-butanol, 0.0354 grams manganese diacetate tetrahydrate, 0.0488 grams cobalt diacetate tetrahydrate, and 0.0397 grams antimony trioxide were added to a 500 ml 3-necked round bottom flask equipped with a ground glass head, a stirrer, and a nitrogen inlet. The flask was immersed in a Belmont metal bath and heated for 2 hours at 200° C. and 1 hour at 210° C. After this time the theoretical amount of methanol was collected. 1.95 ml of a solution containing 173 grams ZONYL A in 185 ml butanol and 1192 ml of 1,3-propanediol were added and the temperature was increased to 280° C. The pressure in the flask was reduced from atmospheric to between about 0.1 to 0.5 mm of Hg for 90 minutes. Stirring was reduced as the viscosity increased until a stir rate of 25 RPM was obtained. The vacuum was discontinued and nitrogen was bled into the flask. The polymer was allowed to solidify by cooling to below Tg, removed from the flask and ground to pass a 3 mm screen. The inherent viscosity of the polymer in the melt phase was 0.62. The polymer had a Tm of 211° C. and a Tg value of 56° C. No Tcc was present under the scan conditions of 20° C./min. Compositional analysis (by NMR) showed that the copolyester contained 9 mole % 2,6 naphthalenedicarboxylic acid.

reactant | 1,3-propanediol | 1.05 moles, 79.8 grams | C(CCO)O | C3H8O2
reactant | dimethyl terephthalate | 0.64 moles, 124.2 grams | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | dimethyl 2,6-naphthalenedicarboxylate | 0.06 moles, 14.6 grams | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | antimony trioxide | 0.0397 grams | O=[Sb]O[Sb]=O
solvent | n-butanol | 500 ml | C(CCC)O | C4H10O
catalyst | titanium tetraisopropoxide | 30 grams | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
catalyst | manganese diacetate tetrahydrate | 0.0354 grams | O.O.O.O.C(C)(=O)[O-].C(C)(=O)[O-].[Mn+2]
catalyst | cobalt diacetate tetrahydrate | 0.0488 grams | O.O.O.O.C(C)(=O)[O-].C(C)(=O)[O-].[Co+2]
solvent | butanol | 0.25 ml | C(CCC)O | C4H10O
product | 2,6-naphthalenedicarboxylic acid | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
